US06995171B2
To a solution of 4 g (12.9 mmol) of 2-(7-chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carboxylic acid 40 mL of 1,2-dichloroethane and 0.1 mL dimethyl formamide was carefully added 4.7 mL (64.4 mmol) of thionyl chloride. The reaction was heated to 90° C. for five hours. The reaction was cooled to room temperature and dry ethyl ether was added. The resulting brown precipitate was collected by vacuum filtration, washed with diethyl ether and dried to afford 2-(7-chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carbonyl chloride (3.31 g) in 78% yield. C12H6Cl2N2OS2: APCI m/z (in methanol to give methyl ester) 325.1/327.1 (pos.); 1H NMR (d6-DMSO): δ 8.68 (d, 1H, J=5.0 Hz), 8.32 (s, 1H), 8.65 (d, 1H, J=5.0 Hz), 2.39 (s, 3H) ppm.

reactant | 2-(7-chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carboxylic acid | 12.9 mmol, 40 mL, 4 g | ClC1=C2C(=NC=C1)C=C(S2)C=2SC(=C(N2)C)C(=O)O | C12H7ClN2O2S2
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
reactant | dimethyl formamide | 0.1 mL | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 64.4 mmol, 4.7 mL | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-(7-chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carbonyl chloride | 3.31 g, 78% yield | ClC1=C2C(=NC=C1)C=C(S2)C=2SC(=C(N2)C)C(=O)Cl | C12H6Cl2N2OS2
